US04666510
A mixture of 3-hydroxy-5-mesitylcyclohex-2-en-1-one (21.0 g, 0.091 mole), butyric anhydride (45 ml) and butyric acid (45 ml) was stirred and heated at 120° C. until homogeneous. Trifluoromethane sulphonic acid (1.0 ml) was added and the solution was heated for 1 hour at 120°-130° C. The solution was poured with stirring into ice-water, then neutralized with sodium bicarbonate and extracted with diethyl ether. The ether extract was dried over anhydrous magnesium sulphate and the drying agent was removed by filtration. The solvent was removed by evaporation under reduced pressure using a rotary evaporator and the residue was subjected to chromatography on silica gel (eluant n-hexane:chloroform (1:1)) to give 3-hydroxy-5-mesityl-2-butyrylcyclohex-2-en-1-one (14 g; 51%) as a pale yellow oil. Proton magnetic resonance spectrum (CDCl3 ; δ in ppm): 1.00 (3H, t); 1.6 (2H, m); 2.22 (3H, s); 2.35 (6H, s); 2.4-4.0 (7H, m); 6.80 (2H, s); 18.20 (1H, s).

reactant | 3-hydroxy-5-mesitylcyclohex-2-en-1-one | 0.091 mole, 21.0 g | OC1=CC(CC(C1)C1=C(C=C(C=C1C)C)C)=O | C15H18O2
reactant | butyric anhydride | 45 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | butyric acid | 45 ml | C(CCC)(=O)O | C4H8O2
reactant | Trifluoromethane sulphonic acid | 1.0 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 3-hydroxy-5-mesityl-2-butyrylcyclohex-2-en-1-one | 14 g, 51% | OC1=C(C(CC(C1)C1=C(C=C(C=C1C)C)C)=O)C(CCC)=O | C19H24O3
